US06503902B2
Step 3: 2-Cyclopropylmethyl-3-hydroxy-heptanoic acid [2-oxo-1-(3-phenylamino-benzyl)-azepan-3-yl]-amide:
In a 25 mL round bottomed flask 2-Cyclopropylmethyl-3-hydroxy-heptanoic acid (0.0125 g, 0.061 mmol) was dissolved in 1 mL DMF. To the reaction mixture HATU, O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate, (0.029 g, 0.0734 mmol) and N-Methyl morpholine (0.018 g, 0.018 mmol) were added and the reaction solution was stirred at room temperature for 10 minutes. To the reaction mixture the compound from Step 2 above (0.025 g, 0.06 mmol) dissolved in 1 mL of DMF was added and the reaction solution was stirred at room tenperature for 18 h. The solution was diluted with 50 mL of water and extracted twice with 20 mL of ethyl acetate. The combined organic layers were dried with anhydrous Sodium sulfate, filtered, and concentrated to an oil. The oil was purified on a flash silica gel column using 20-40% ethyl acetate in hexanes as eluent to yield 6.0 mg (20%). MS (ESI) M+H=492.6.

reactant | 2-Cyclopropylmethyl-3-hydroxy-heptanoic acid | 0.061 mmol, 0.0125 g | C1(CC1)CC(C(=O)O)C(CCCC)O | C11H20O3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.0734 mmol, 0.029 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-Methyl morpholine | 0.018 mmol, 0.018 g | CN1CCOCC1 | C5H11NO
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 2-Cyclopropylmethyl-3-hydroxy-heptanoic acid [2-oxo-1-(3-phenylamino-benzyl)-azepan-3-yl]-amide | O=C1N(CCCCC1NC(C(C(CCCC)O)CC1CC1)=O)CC1=CC(=CC=C1)NC1=CC=CC=C1 | C30H41N3O3
